US06344452B1
Preparation of sodium (R)-2-[3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]phenyl]-2-methylpropionate
To a solution of (R)-(−)-2-[3-[3-(1 -tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]phenyl]-2-methylpropionic acid (960 mg) in methanol (10 mL), 1 N sodium hydroxide (1.79 mL) was added. The solution was concentrated under reduced pressure. The residue was purified through HP-20 (“Diaion”, product of Mitsubishi Chemical Corporation) by means of water and methanol. The thus-purified residue was lyophilized, whereby the title compound (900 mg) was obtained.

reactant | (R)-(−)-2-[3-[3-(1 -tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]phenyl]-2-methylpropionic acid | 960 mg | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C=CC2)C(C(=O)O)(C)C)=O)=O | C32H42N4O5
reactant | sodium hydroxide | 1 N, 1.79 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | sodium (R)-2-[3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)ureido]phenyl]-2-methylpropionate | 900 mg | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C=CC2)C(C(=O)[O-])(C)C)=O)=O.[Na+] | InChI=1S/C32H42N4O5.Na/c1-31(2,3)27(37)20-36-26-17-10-9-16-25(26)35(23-14-7-6-8-15-23)19-24(28(36)38)34-30(41)33-22-13-11-12-21(18-22)32(4,5)29(39)40;/h9-13,16-18,23-24H,6-8,14-15,19-20H2,1-5H3,(H,39,40)(H2,33,34,41);/q;+1/p-1/t24-;/m1./s1
